US09340544B2
(2-Chloro-9-ethyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine
Was prepared according to Example 3 from N-(4-chloro-phenyl)-formamide and 2,6-dichloro-9-ethyl-9H-purine.

reactant | N-(4-chloro-phenyl)-formamide | ClC1=CC=C(C=C1)NC=O | C7H6ClNO
reactant | 2,6-dichloro-9-ethyl-9H-purine | ClC1=NC(=C2N=CN(C2=N1)CC)Cl | C7H6Cl2N4
product | (2-Chloro-9-ethyl-9H-purin-6-yl)-(4-chloro-phenyl)-amine | ClC1=NC(=C2N=CN(C2=N1)CC)NC1=CC=C(C=C1)Cl | C13H11Cl2N5
